*
.SUBCKT BSP20 1 2 3
* housing parasitics
LB 2 22 4.13E-9
LE 3 33 3.77E-09
LC 1 11 4.1E-13
CBCG 22 11 1.76E-13
CBEG 22 33 8.6E-14
CCEG 11 33 1.76E-13
Q1 11 22 33 QBSP20 AREA = 1
D1 22 11 DIODE
*
* The diode does not reflect a physical
* device but improves only modeling
* in the reverse mode of operation
*
.MODEL QBSP20 NPN
+(
+ IS = 1.272E-14
+ NF = 0.9815
+ ISE = 1.929E-15
+ NE = 1.278
+ BF = 115.3
+ IKF = 0.035
+ VAF = 80
+ NR = 0.975
+ ISC = 1E-16
+ NC = 4.472
+ BR = 5.79
+ IKR = 0.03
+ VAR = 28
+ RB = 390
+ IRB = 2.94E-06
+ RBM = 0.1
+ RE = 0.194
+ RC = 0.81
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 3.948E-11
+ VJE = 0.755
+ MJE = 0.3519
+ TF = 1.3E-09
+ XTF = 19
+ VTF = 5
+ ITF = 0.08
+ PTF = 0
+ CJC = 4.485E-12
+ VJC = 0.1287
+ MJC = 0.3746
+ XCJC = 1
+ TR = 5E-07
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.78
+)
*
.MODEL DIODE D
+(
+ IS = 1E-13
+ N = 1
+ BV = 1000
+ IBV = 0.001
+ RS = 621.1
+ CJO = 0
+ VJ = 1
+ M = 0.5
+ FC = 0
+ TT = 0
+ EG = 1.11
+ XTI = 3
+)
.ENDS
*